US04740513
Preparation of 6-(4-acetyl-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone, 0.25H2O.
A mixture of 6-bromo-8-methyl-2-(1H)-quinolone (2.38 g), (see Preparation 67 of European patent application publication No. 0148623), 4-acetyl-2-methylimidazole (2.48 g), finely divided copper-bronze (0.64 g), potassium carbonate (1.38 g), and a few crystals of iodine was stirred and heated in N-methyl-2-pyrrolidone (8 cm3) at 190° C. for 24 hours under nitrogen. The cooled mixture was then poured into methanol:dichloromethane (100 cm3, 1:10 by volume), stirred and filtered. The filtrate was poured into aqueous ammonia (20 cm3, S.G. 0.880) and the mixture was filtered through "Solkafloc" (Trademark for a cellulose-based filtering aid). The filtrate was separated and the aqueous phase was re-extracted with methanol:dichloromethane (3×100 cm3), 1:10 by volume). The combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trademark]). Elution with methanol:dichloromethane, 1:33 by volume, followed by combination and evaporation of the appropriate fractions, gave unreacted starting bromo-quinolone (0.68 g) and a solid which was recrystallised from ethyl acetate/methanol to afford the title compound, m.p. 306°-8°, (0.26 g), which was also confirmed spectroscopically to be identical to the product of Example 3.

reactant | 6-bromo-8-methyl-2-(1H)-quinolone | 2.38 g | BrC=1C=C2C=CC(NC2=C(C1)C)=O | C10H8BrNO
reactant | 4-acetyl-2-methylimidazole | 2.48 g | C(C)(=O)C=1N=C(NC1)C | C6H8N2O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | II | I2
reactant | bromo-quinolone | 0.68 g | BrC=1C(NC2=CC=CC=C2C1)=O | C9H6BrNO
solvent | N-methyl-2-pyrrolidone | 8 cm3 | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 6-(4-acetyl-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | C(C)(=O)C=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C16H15N3O2
